US06790540B2
The reaction of 5.0 g (0.0347 mole) of 8-aminoquinoline with 5.43 g (0.0347 mole) of n-butanesulfonyl chloride was carried out in 10 ml of pyridine at room temperature. After 2 hours from the start of the reaction, the reaction mixture was washed with water, extracted with diethyl ether, purified by column chromatography and concentrated to give 10.32 g (0.032 mole, 92%) of 8-(n-butylsulfonamido)quinoline. Then, 5.0 g (0.019 mole) of the 8-(n-butylsulfonamido)quinoline, 2.12 g (0.019 mole ) of zinc chloride and 4.76 g (0.047 mole) of triethylamine were suspended in 30 ml of ethanol and allowed to react at room temperature. After 3 hours, the separated yellow powder was filtered, washed with ethanol and purified by column chromatography to give 8.62 g (91.0%) of Compound N as yellow crystals. The maximum PL wavelength of this compound in chloroform was 510 nm.

reactant | 8-aminoquinoline | 0.0347 mole, 5.0 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | n-butanesulfonyl chloride | 0.0347 mole, 5.43 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 8-(n-butylsulfonamido)quinoline | 0.032 mole, 10.32 g, 92% | C(CCC)S(=O)(=O)NC=1C=CC=C2C=CC=NC12 | C13H16N2O2S
